US09402914B2
A 20 L 4-neck round-bottom flask was flushed with N2. Then charged a solution of tert-butyl 2-(1,3-bis(1,3-dioxoisoindolin-2-yl)propan-2-yloxy)ethylcarbamate (919 g, 1.9 mol, 1.0 eq) in ethanol (12000 mL, 13.0 v), followed by dropwise addition of hydrazine hydrate (602 g, 12.0 mol, 6.3 eq) with stirring at 40-45° C. over 30 min. The resulting mixture was stirred for 7 hours at 40-45° C. in an oil bath. The reaction progress was monitored with LCMS. The reaction mixture was cooled to 20˜30° C. and filtered. The filtrate was concentrated under vacuum to give 424.0 g (97.5%) of tert-butyl 2-(1,3-diaminopropan-2-yloxy)ethylcarbamate as a brown oil.

reactant | tert-butyl 2-(1,3-bis(1,3-dioxoisoindolin-2-yl)propan-2-yloxy)ethylcarbamate | 1.9 mol, 919 g, 1.0 eq | O=C1N(C(C2=CC=CC=C12)=O)CC(CN1C(C2=CC=CC=C2C1=O)=O)OCCNC(OC(C)(C)C)=O | C26H27N3O7
reactant | hydrazine hydrate | 12.0 mol, 602 g, 6.3 eq | O.NN
solvent | ethanol | 12000 mL | C(C)O | C2H6O
product | tert-butyl 2-(1,3-diaminopropan-2-yloxy)ethylcarbamate | 424.0 g, 97.5% | NCC(CN)OCCNC(OC(C)(C)C)=O | C10H23N3O3
